US04256898
A 5 g (21.8 mM) quantity of 4-hydroxy-3-phthalimidocyclopentene and 1.72 g (21.8 mM) of pyridine are dissolved in 6 ml of methylene chloride and the solution added dropwise over 40 minutes to an ice-cooled stirred solution of 4.6 g (21.8 mM) of trifluoromethanesulfonic anhydride in 15 ml of methylene chloride under nitrogen. The solution is stirred for an additional 15 minutes and then washed with water and dried concentration of the methylene chloride solution leaves dl-trans-3-phthalimido-4-trifluoromethanesulfonyloxycyclopentene.

reactant | 4-hydroxy-3-phthalimidocyclopentene | OC1C(C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO3
reactant | pyridine | 21.8 mM, 1.72 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 21.8 mM, 4.6 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | trans-3-phthalimido-4-trifluoromethanesulfonyloxycyclopentene | C1(C=2C(C(N1[C@@H]1C=CC[C@H]1OS(=O)(=O)C(F)(F)F)=O)=CC=CC2)=O | C14H10F3NO5S
